US07138533B2
8-(3-{1-[2-(4-Chlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one and 2-(4-chlorophenyl)ethyl methanesulfonate according to the same method as that of Example 81, the title compound was obtained as colorless crystals having a melting point of 204 to. 206° C.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | 2-(4-chlorophenyl)ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)Cl | C9H11ClO3S
product | 8-(3-{1-[2-(4-Chlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C27H31ClN2O2.ClH/c28-24-5-1-19(2-6-24)9-13-29-14-10-20(11-15-29)3-7-25(31)23-17-21-4-8-26(32)30-16-12-22(18-23)27(21)30;/h1-2,5-6,17-18,20H,3-4,7-16H2;1H
